US04536209
Production of N-[4-chloro-3-(1-ethoxycarbonylpropen-1-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 4.0 g. of N-(4-chloro-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide, 4.7 g. of ethyl 2,3-dibromobutyrate, 2.4 g. of potassium carbonate and 35 ml. of acetone was refluxed with stirring for 6 hours and the precipitated salt was separated by a filtration. The filtrate was concentrated under a reduced pressure and 2N-HCl was added to the residue to obtain a crude crystal. The product was washed with water and dried and purified by a chromatography on a column of silica gel (developing solvent: ethyl acetate:n-hexane of 3:7) to obtain 5.2 g. of Compound No. 158 shown in Table 1.

reactant | N-(4-chloro-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)O | C14H12ClNO3
reactant | ethyl 2,3-dibromobutyrate | BrC(C(=O)OCC)C(C)Br | C6H10Br2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-chloro-3-(1-ethoxycarbonylpropen-1-yloxy)phenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OC(=CC)C(=O)OCC | C20H20ClNO5
